US04564382
N-(2,4-Dichlorophenoxyacetyl)-O-methyl-isourea
13.5 g (0.11 mole) of O-methyl-isourea sulfate are dissolved in 50 ml of water and 100 ml of methylene chloride. 16 g of 50% strength aqueous sodium hydroxide solution (0.2 mole) and 24 g (0.1 mole) of 2,4-dichlorophenoxyacetyl chloride are simultaneously added dropwise from two separate vessels at 0° C., with vigorous stirring. The mixture is stirred at 0° C. for 1 hour and at 40° C. for 3 hours and the organic phase is separated off, washed twice with 100 ml of water and dried over sodium sulfate.

reactant | O-methyl-isourea sulfate | 0.11 mole, 13.5 g | S(=O)(=O)(O)O.COC(N)=N
reactant | sodium hydroxide | 0.2 mole | [OH-].[Na+]
reactant | 2,4-dichlorophenoxyacetyl chloride | 0.1 mole, 24 g | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2,4-Dichlorophenoxyacetyl)-O-methyl-isourea | ClC1=C(OCC(=O)NC(OC)=N)C=CC(=C1)Cl | C10H10Cl2N2O3
